US07582673B2
To a solution of benzo[b]thiophene-2-sulfonic acid [2-(2-chloro-5-trifluoromethylbenzenesulfonylamino)phenyl]-amide (0.5 mmol) in dioxane (5 mL), solid sodium methoxide (2 mmol) was added in one portion and the resulting reaction mixture was then heated to reflux for ca. 4 h. After the completion of the reaction, the reaction mixture was cooled to RT and concentrated in vacuo. The residue obtained was redissolved in EtOAc (10 mL) and was washed with water (10 mL) and brine (10 mL). The organic phase was dried over anhydrous sodium sulfate and concentrated under vacuum. The residue obtained was purified by flash column chromatography eluting with DCM/EtOAc to obtain 204 mg of benzo[b]thiophene-2-sulfonic acid [2-(2-methoxy-5-trifluoromethyl-benzenesulfonylamino)phenyl]-amide. LC: Tr 1.20 min; MS: 544.1 (M+1)+.

reactant | benzo[b]thiophene-2-sulfonic acid [2-(2-chloro-5-trifluoromethylbenzenesulfonylamino)phenyl]-amide | 0.5 mmol | ClC1=C(C=C(C=C1)C(F)(F)F)S(=O)(=O)NC1=C(C=CC=C1)NS(=O)(=O)C1=CC2=C(S1)C=CC=C2 | C21H14ClF3N2O4S3
reactant | sodium methoxide | 2 mmol | C[O-].[Na+]
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
product | benzo[b]thiophene-2-sulfonic acid [2-(2-methoxy-5-trifluoromethyl-benzenesulfonylamino)phenyl]-amide | 204 mg | COC1=C(C=C(C=C1)C(F)(F)F)S(=O)(=O)NC1=C(C=CC=C1)NS(=O)(=O)C1=CC2=C(S1)C=CC=C2 | C22H17F3N2O5S3
